US04871765
42.6 g of 2-methanesulfonylimino-1,3benzodioxole was suspended in 126 ml of methylene chloride. Thereto was dropwise added 31.4 g of 2-[(2furyl)methylthio]ethylamine at 10° to 15° C. Stirring was effected at the same temperature for 30 minutes. The reaction mixture was mixed with 250 ml of benzene and the resulting mixture was stirred at the same temperature for 30 minutes. The crystals deposited were collected by filtration to obtain 65.5 g (yield: 88%) of N-[2-[(2-furyl)methylthio]ethyl]-O-(2-hydroxyphenyl)-N'-methanesulfonylisourea.

reactant | 2-methanesulfonylimino-1,3benzodioxole | 42.6 g | CS(=O)(=O)N=C1OC2=C(O1)C=CC=C2 | C8H7NO4S
reactant | 2-[(2furyl)methylthio]ethylamine | 31.4 g | O1C(=CC=C1)CSCCN | C7H11NOS
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 126 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[(2-furyl)methylthio]ethyl]-O-(2-hydroxyphenyl)-N'-methanesulfonylisourea | 65.5 g, yield: 88% | O1C(=CC=C1)CSCCNC(OC1=C(C=CC=C1)O)=NS(=O)(=O)C | C15H18N2O5S2
